Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o ESRD on HD and HTN, presents with palpitations and 
chest pain during HD. He was in his usual state of health prior 
to HD session on day of admission. About 2 hours into HD, he 
developed palpitations, dyspnea, nausea, and substernal chest 
pain. He denies any similar previous episodes. EKG at HD showed 
a-fib. He was given full-dose ASA and 1 dose of IV diltiazem en 
route to ___. Upon arrival at ___, he was in NSR 
and chest pain had resolved. While in the ED, he had another 
episode of chest pain, which lasted for ~5 minutes. EKG showed 
deepening anterolateral TWIs. He was started on a heparin gtt 
and transferred to ___.  
In our ED, he was in NSR and did not have any chest pain.  
Vitals in the ED: 98.2 76 167/93 16 98%  
Labs notable for: trop-T 0.13, Cr 5.8, PTT 53.9  
Patient given: IV Heparin, atorvastatin 80mg, metoprolol 12.5mg  

Vitals prior to transfer: 97.4 78 142/93 18 100% Nasal Cannula  
On the floor, he is chest pain-free and has no other complaints.
 
Past Medical History:
ESRD on HD  
HTN 

 
Social History:
___
Family History:
Mother: CVA  
Father: died from complications of DM
 
Physical Exam:
ADMISSION EXAM:
==================

Vitals - 98.0 ___ 96%RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, NECK: nontender supple neck, no LAD, JVP elevated to 
mandible w/ patient at 45 degrees.  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: mild bibasilar crackles. Breathing comfortably on room 
air.  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. LUE AVF w/ palpable thrill and audible 
bruit.  
NEURO: a&ox3. no focal deficits  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM:
==================

Vitals: Tm 98.4/Tc 97.9, HR 86, BP 162/114, RR 20, SaO2 98% RA  
GENERAL: ___ gentleman lying comfortably in bed, 
NAD.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM NECK: Supple neck, no LAD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Nonlabored breathing, lungs clear anteriorly  
ABDOMEN: Nondistended, +BS, soft, nontender.  
EXTREMITIES: No cyanosis, clubbing or edema, moving all 4 
extremities with purpose. LUE AVF w/ palpable thrill and audible 
bruit.  
NEURO: AAOx3, no focal deficits.  
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:
==================

___ 01:00AM BLOOD WBC-5.9 RBC-4.79 Hgb-14.0 Hct-40.2 MCV-84 
MCH-29.1 MCHC-34.7 RDW-18.0* Plt ___
___ 01:00AM BLOOD Neuts-71.5* ___ Monos-6.1 Eos-2.0 
Baso-0.7
___ 01:00AM BLOOD ___ PTT-53.9* ___
___ 01:00AM BLOOD Glucose-88 UreaN-37* Creat-5.8* Na-139 
K-3.7 Cl-97 HCO3-33* AnGap-13
___ 01:00AM BLOOD CK(CPK)-194
___ 01:00AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.0

DISCHARGE LABS:
==================

___ 06:28AM BLOOD WBC-7.3 RBC-5.02 Hgb-14.2 Hct-42.7 MCV-85 
MCH-28.4 MCHC-33.4 RDW-18.2* Plt ___
___ 06:28AM BLOOD Glucose-97 UreaN-47* Creat-7.6*# Na-139 
K-3.9 Cl-102 HCO3-27 AnGap-14
___ 07:06AM BLOOD CK(CPK)-185

INTERIM LABS:
==================

___ 01:00AM BLOOD cTropnT-0.13*
___ 07:06AM BLOOD CK-MB-5 cTropnT-0.16*
___ 01:00PM BLOOD CK-MB-5 cTropnT-0.15*

IMAGING:
==================
CXR (___):  
The lung volumes are normal. The patient is in a moderate to 
severe pulmonary edema. Mild cardiomegaly. No pleural effusions. 
No pneumonia. 
 
TTE (___):  
IMPRESSION: Moderate left ventricular hypertrophy with preserved 
regional and global systolic function and reduced longitudinal 
strain of the basal segments, which may be consistent with 
amyloidosis. Thickened mitral valve with trivial mitral 
regurgitation. Normal biventricular systolic function. Moderate 
pulmonary hypertension. Small secundum ASD vs. stretched PFO. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a h/o ESRD on HD and 
HTN, who presented with palpitations and chest pain during HD, 
found to have new Afib and NSTEMI.  
 
# NSTEMI:  Patient presented with chest pain, a troponin leak, 
and dynamic EKG changes.  His chest pain resolved in the ED.  It 
was unclear if patient had a type 1 NSTEMI leading to new Afib 
or demand ischemia secondary to atrial fibrillation.  Patient 
was started on a heparin gtt.  He was continued on ASA, 
atorvastatin, and lisinopril.  A left heart catheterization was 
deferred.

# Atrial fibrillation:  Patient has no history of arrhythmia.  
He spontaneously cardioverted to NSR at OSH and remained in 
sinus rhythm throughout the hospitalization.  TSH was normal at 
OSH.  Patient was switched from labetalol to carvedilol for 
better blood pressure control.  Given CHADS2 score of 1, 
warfarin was deferred.  Patient was discharged on ASA 325.

# RVH/LVH:  TTE was very concerning for amyloidosis.  There was 
evidence of severe pulmonary edema on CXR, but patient was 
breathing comfortably and not hypoxic.  He appeared euvolemic on 
exam.  Patient will be scheduled to see a cardiologist for 
further evaluation of possible amyloidosis (i.e. a cardiac MRI, 
serum markers).     

# ESRD:  Patient was continued on T, Th, Sa HD schedule.

# Hypertension:  Patient was mildly hypertensive.  He was 
switched from labetalol to carvedilol 12.5 mg bid for better 
blood pressure control.  He was continued on lisinopril 
(reportedly on 40 mg bid), but on 20 mg daily.

TRANSITIONAL ISSUES:
======================
[ ] Patient is scheduled to follow-up with cardiology for 
further evaluation of possible cardiac amyloidosis, including 
cardiac MRI. 
[ ] Uptitrate lisinopril and carvedilol as needed for 
hypertension.
[ ] Patient was started on ASA 325 mg for stroke reduction given 
CHADS2 of 1.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prochlorperazine ___ mg PO Q8H:PRN nausea 
2. Tamsulosin 0.4 mg PO QHS 
3. Lisinopril 20 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. sevelamer CARBONATE 3200 mg PO TID W/MEALS 
6. Vitamin D ___ UNIT PO DAILY 
7. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Lisinopril 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Prochlorperazine ___ mg PO Q8H:PRN nausea 
4. sevelamer CARBONATE 3200 mg PO TID W/MEALS 
5. Tamsulosin 0.4 mg PO QHS 
6. Vitamin D ___ UNIT PO DAILY 
7. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
8. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth HS Disp #*30 Tablet 
Refills:*0
9. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
10. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
====================
Non-ST elevation MI
Atrial fibrillation
Possible cardiac amyloidosis

SECONDARY DIAGNOSES:
=====================
End stage renal disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___.  You 
were admitted for chest pain and an abnormal fast heart rhythm 
called atrial fibrillation.  An EKG and labs showed that you had 
a mild heart attack, likely brought on by the fast heart rate.  
You were given medications to treat this, and your chest pain 
resolved.  Your heart returned to a normal rhythm.  

An ultrasound of your heart suggested that you may have a 
condition called cardiac amyloidosis, which is a condition that 
causes progressive heart failure.  We are working to schedule an 
appointment with a cardiologist at ___, and it is very 
important to keep this appointment because there are additional 
tests that need to be done, and potentially advanced treatment 
to help slow the progression of heart failure.  This is 
extremely important!!  If you are having difficulty scheduling 
follow-up through ___, please call ___ for 
assistance, at Location: ___ CARDIOLOGY 
Address: ___, ___ 
Phone: ___ 

You were started on a full-dose aspirin to reduce your risk of 
stroke (given your abnormal heart rhythm).  We switched your 
blood pressure medication (labetalol) to carvedilol, which is 
better for your heart.  We also started you on several 
medications (aspirin and atorvastatin) that are very important 
to help prevent future heart attacks.

We wish you good health!
-Your ___ Team
 
Followup Instructions:
___